US04041156
To 33.76 g of cyclohexylmethylamine was added with stirring 15.96 g of tert-butyl β -chloropropionate over a period of 30 minutes, while maintaining the temperature at 30°-70° C. The reaction mixture was held at 70° C. for an additional one hour. At the end of this period, the reaction mixture was taken up in 40 ml of 2N NaOH solution and 50 ml of benzene, transferred into a separatory funnel and well shaken. The benzene solution was separated, washed with water, dried over anhydrous sodium sulfate and filtered. After evaporation of benzene, the residue was distilled under reduced pressure to give 21.0 g (89 percent) of N-cyclohexylmethyl- β -alanine tert-butyl ester, B.P. 156° C./15 mmHg.

reactant | cyclohexylmethylamine | 33.76 g | C1(CCCCC1)CN | C7H15N
reactant | tert-butyl β -chloropropionate | 15.96 g | ClCCC(=O)OC(C)(C)C | C7H13ClO2
solvent | NaOH | 2N, 40 ml | [OH-].[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-cyclohexylmethyl- β -alanine tert-butyl ester | 21.0 g, 89 percent | C(C)(C)(C)OC(CCNCC1CCCCC1)=O | C14H27NO2
